US05977150
5-[4-(Trifluoromethyl)phenyl]-1.3,4-oxadiazol-2(3H)-one
4-(Trifluoromethyl)benzoic acid hydrazide (commercially available from Maybridge Chemicals) (5 g, 24.5 mmol) was taken up in THF (250 ml)/triethylamine (2.7 ml, 26 mmol) under N2 and 1,1'-carbonyl-diimidazole (4.2 g, 26 mmol) added. The solution was stirred for 18 h at 24° C., concentrated, and the residue was taken up in ethyl acetate, washed with 1 N HCl solution, sat'd NaHCO3 solution, and brine prior to drying (MgSO4). Concentration gave 5 g (89%) of the title compound from which a sample was recrystallized from diethyl ether/hexanes: mp 214-216° C. MS m/z: 231 (MH+).

reactant | 4-(Trifluoromethyl)benzoic acid hydrazide | FC(C1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O
reactant | triethylamine | 26 mmol, 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | 1,1'-carbonyl-diimidazole | 26 mmol, 4.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5-[4-(Trifluoromethyl)phenyl]-1.3,4-oxadiazol-2(3H)-one | 5 g, 89% | FC(C1=CC=C(C=C1)C1=NNC(O1)=O)(F)F | C9H5F3N2O2
